US07179823B1
A mixture of ethyl 3-[3-ethoxy-1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxybenzyl]-1H-pyrazol-4-yl]propionate (561 mg), 1 N aqueous sodium hydroxide solution (2.5 ml), tetrahydrofuran (5 ml), and ethanol (5 ml) was stirred at room temperature for two hours, diluted with 1 N hydrochloric acid (2.5 ml), and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The obtained colorless crystals were collected by filtration, and 3-[3-ethoxy-1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxybenzyl]-1H-pyrazol-4-yl]propionic acid (506 mg, yield: 96%) was obtained. This was recrystallized from ethanol-hexane. Melting point: 133–134° C.

reactant | ethyl 3-[3-ethoxy-1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxybenzyl]-1H-pyrazol-4-yl]propionate | 561 mg | C(C)OC1=NN(C=C1CCC(=O)OCC)CC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OC | C27H31N3O7
reactant | sodium hydroxide | 1 N, 2.5 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 1 N, 2.5 ml | Cl | ClH
product | 3-[3-ethoxy-1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxybenzyl]-1H-pyrazol-4-yl]propionic acid | 506 mg, yield: 96% | C(C)OC1=NN(C=C1CCC(=O)O)CC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OC | C25H27N3O7
